2149-12-31 09:06:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2149-12-30**] 09:49 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2149-12-28**] 08:06 PM
   Cefipime - [**2149-12-30**] 11:51 PM
   Metronidazole - [**2149-12-30**] 11:51 PM
   Vancomycin - [**2149-12-31**] 08:42 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, C diff +
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-12-31**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 81 (72 - 92) bpm
   BP: 135/79(90) {121/61(79) - 136/81(94)} mmHg
   RR: 12 (11 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (9 - 11)mmHg
   Total In:
                                                                  3,092 mL
                                                                    486 mL
   PO:
                                                                  1,660 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,402 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  4,630 mL
                                                                  1,625 mL
   Urine:
                                                                  4,630 mL
                                                                  1,625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,538 mL
                                                                 -1,139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.45/28/70/27/-2
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   407 K/uL
   102 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.8 mEq/L
   6 mg/dL
   109 mEq/L
   144 mEq/L
   29.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2149-12-28**]  04:00 PM
                             [**2149-12-28**]  09:52 PM
                             [**2149-12-29**]  03:58 AM
                             [**2149-12-29**]  12:09 PM
                             [**2149-12-29**]  11:17 PM
                             [**2149-12-30**]  02:11 AM
                             [**2149-12-30**]  05:08 AM
                             [**2149-12-30**]  09:16 AM
                             [**2149-12-30**]  12:48 PM
                             [**2149-12-31**]  04:53 AM
   WBC
   9.6
   8.8
   7.4
   Hct
   23.4
   28.3
   28.2
   28.4
   29.9
   Plt
   496
   437
   407
   Cr
   0.9
   0.8
   0.7
   0.8
   TropT
   1.75
   1.56
   1.85
   1.39
   1.67
   1.69
   1.95
   1.79
   TCO2
   20
   Glucose
   129
   116
   119
   102
   Other labs: PT / PTT / INR:13.2/29.1/1.1, CK / CKMB /
   Troponin-T:147/9/1.79, ALT / AST:65/79, Alk Phos / T Bili:70/0.2,
   Differential-Neuts:68.0 %, Band:0.0 %, Lymph:13.0 %, Mono:14.0 %,
   Eos:0.0 %, Lactic Acid:1.1 mmol/L, LDH:458 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 HYPOTENSION (NOT SHOCK)
 ASPERGILLUS INFECTION, INVASIVE
   He continues to improve. CXR has resolved his LUL infiltrate - unclear
   [**Name2 (NI) **] now but unlikely to be new infection. We still have no clear
   source for his initial presentation but will complete course of Vanco /
   Zosyn.  Remains in NSR on amio. Will need baseline PFTs
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2149-12-28**] 06:10 AM
   20 Gauge - [**2149-12-29**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes